US05362878
N-(Isoquinolin-5-yl)-2-(4-(1-methylpropyl)phenoxy)nonanoic amide
N-(isoquinolin-5-yl)-2-bromodecanoic amide, prepared according to the procedures described in Example 3 and 25, was coupled with 4-(1-methylpropyl)phenol according to the procedure described in Example 6 to give the title compound.

reactant | N-(isoquinolin-5-yl)-2-bromodecanoic amide | C1=NC=CC2=C(C=CC=C12)NC(C(CCCCCCCC)Br)=O | C19H25BrN2O
reactant | 4-(1-methylpropyl)phenol | CC(CC)C1=CC=C(C=C1)O | C10H14O
product | N-(Isoquinolin-5-yl)-2-(4-(1-methylpropyl)phenoxy)nonanoic amide | C1=NC=CC2=C(C=CC=C12)NC(C(CCCCCCC)OC1=CC=C(C=C1)C(CC)C)=O | C28H36N2O2
